US06967201B1
2-bromo-4,5-difluorophenyl Allyl Ether
A mixture of 79.4 gm (0.38 mole) 2-bromo-4,5-difluorophenol and 79 gm (0.57 mole) potassium carbonate in 200 mL dimethylformamide was stirred at room temperature for 30 minutes. At this point 33 mL (0.38 mMol) allyl bromide were added and the resulting mixture was stirred for 18 hours at room temperature. The reaction mixture was then diluted with diethyl ether and washed with water followed by saturated aqueous sodium chloride. The remaining organics were dried over magnesium sulfate and concentrated under reduced pressure to provide 90 gm (96%) of the desired compound.

reactant | 2-bromo-4,5-difluorophenol | 0.38 mole, 79.4 gm | BrC1=C(C=C(C(=C1)F)F)O | C6H3BrF2O
reactant | potassium carbonate | 0.57 mole, 79 gm | C([O-])([O-])=O.[K+].[K+]
reactant | diethyl ether | C(C)OCC | C4H10O
solvent | dimethylformamide | 200 mL | CN(C=O)C | C3H7NO
catalyst | allyl bromide | 0.38 mMol, 33 mL | C(C=C)Br | C3H5Br
product | 2-bromo-4,5-difluorophenyl Allyl Ether | 90 gm, 96% | C(C=C)OC1=C(C=C(C(=C1)F)F)Br | C9H7BrF2O
